US05116862
A solution of benzyl mercaptan (25.0 ml) in dry dimethylformamide (100 ml) was stirred at 0° C., under a current of nitrogen. Sodium hydride (6.0 g., 80% dispersion in oil) was added carefully and the mixture was stirred at 0° for 1 hour. 3-n-Propyloxetan-3-ylmethyl methanesulphonate (10.0 g.) was added and the mixture was stirred at 0° C. for 1 hour. The mixture was refluxed with stirring for 6 hours. The mixture was cooled and poured into water. The aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was chromatographed on silica, eluting with 1:4; diethyl ether:hexane. 2,2-Di-(benzylthiomethyl)pentan-1-ol was obtained as a pale yellow oil (15.6 g.)

reactant | benzyl mercaptan | 25.0 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | Sodium hydride | 6.0 g | [H-].[Na+]
reactant | 3-n-Propyloxetan-3-ylmethyl methanesulphonate | 10.0 g | CS(=O)(=O)OCC1(COC1)CCC | C8H16O4S
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,2-Di-(benzylthiomethyl)pentan-1-ol | C(C1=CC=CC=C1)SCC(CO)(CCC)CSCC1=CC=CC=C1 | C21H28OS2
